datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)NC(Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].Cc1cc2cccc(O)c2[n:10]c1C>>CC(=O)NC(Cc1c[nH]c[n:21]1)C(=O)[O-].Cc1cc2cccc(O)c2[n+:10]([H:20])c1C 10=20;20,21=21",
"CC(C)(C)c1ccc(SCC(=O)[O-:10])cc1.CC1(C)CCC(C(=O)[O:21][H:20])=[N+]1[O-]>>CC(C)(C)c1ccc(SCC(=O)[O:10][H:20])cc1.CC1(C)CCC(C(=O)[O-:21])=[N+]1[O-] 10=20;20,21=21",
"COc1ccc([NH+:21](C)[H:20])cc1.Nc1nccc2c1[n:10]cn2CCOCP(=O)([O-])[O-]>>COc1ccc([NH:21]C)cc1.Nc1nccc2c1[n+:10]([H:20])cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"O=[N+]([O-])c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCOCC2)c1>>O=[N+]([O-])c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCOCC2)c1 10=20;20,21=21",
"CC(O)(c1ccccc1)C(C(=O)[O-:10])c1ccc(-c2ccccc2)cc1.C[C@H](NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O:21][H:20]>>CC(O)(c1ccccc1)C(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)cc1.C[C@H](NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O-:21] 10=20;20,21=21",
